US09261780B2
Under a nitrogen atmosphere, 5.81 g (25 mmol) of the ethyl 2-fluoro-3-(methacryloyloxy)pentanoate, and 250 mL of THF were cooled in a 1 L reaction vessel on an ice bath to an ice temperature, and thereto was added 250 g of a 2.38 weight % aqueous tetramethylammoniumhydroxide solution. The temperature of the mixture was elevated to the room temperature, followed by stirring the mixture at a room temperature for 5 hrs. After disappearance of the raw material was confirmed by thin layer chromatography, the solvent of the reaction liquid was distilled off under a reduced pressure. Water was added to the reaction mixture thus obtained, and the mixture was extracted three times with ethyl acetate. The organic layer was washed with water twice, and the solvent was distilled off under a reduced pressure to obtain 4.59 g of 2-fluoro-3-(methacryloyloxy)pentanoic acid represented by the following formula (yield: 90%).

reactant | ethyl 2-fluoro-3-(methacryloyloxy)pentanoate | 25 mmol, 5.81 g | FC(C(=O)OCC)C(CC)OC(C(=C)C)=O | C11H17FO4
reactant | tetramethylammoniumhydroxide | [OH-].C[N+](C)(C)C
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-fluoro-3-(methacryloyloxy)pentanoic acid | 4.59 g, yield: 90% | FC(C(=O)O)C(CC)OC(C(=C)C)=O | C9H13FO4
